US05559141
a) 1-benzyl-5-[4-(4-fluorophenyl)-1-hydroxybutyl]-1H-imidazole
5,4 g of magnesium turnings are covered with 50 ml of dry tetrahydrofuran. A solution of 1-bromo-3-(4-fluorophenyl)propane (48,7 g) in 200 ml of dry tetrahydrofuran is then added dropwise to the mixture at such a rate that a smooth reaction is maintained. After the addition is complete, the reaction mixture is refluxed for one additional hour and cooled to room temperature. To the reaction mixture is then added dropwise the solution of 1-benzyl-5-imidazolecarbaldehyde (20,9 g) in 200 ml of tetrahydrofuran. After the addition is complete, the reaction mixture is refluxed for 2 hours, cooled and poured into cold saturated ammonium chloride solution. Tetrahydrofuran phase is removed and the water phase is extracted three times with ethyl acetate. Organic phases are combined, dried and evaporated to dryness. The residue is suspended with diethyl ether and filtered. Yield 86%.

reactant | magnesium | 5,4 g | [Mg] | Mg
reactant | 1-bromo-3-(4-fluorophenyl)propane | 48,7 g | BrCCCC1=CC=C(C=C1)F | C9H10BrF
reactant | 1-benzyl-5-imidazolecarbaldehyde | 20,9 g | C(C1=CC=CC=C1)N1C=NC=C1C=O | C11H10N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-benzyl-5-[4-(4-fluorophenyl)-1-hydroxybutyl]-1H-imidazole | Yield 86% | C(C1=CC=CC=C1)N1C=NC=C1C(CCCC1=CC=C(C=C1)F)O | C20H21FN2O
